US07067517B2
Morpholine-4-carboxylic acid 3,4,5-tribromo-pyrazol-1-yl ester
The title compound was prepared from 1-hydroxy-3,4,5-tribromopyrazole and 4-morpholine carbonyl chloride applying the general procedure 8. The crude product was purified by flash chromatography (Quad flash 12, EtOAc-heptane) (90%, crystals).

reactant | 1-hydroxy-3,4,5-tribromopyrazole | ON1N=C(C(=C1Br)Br)Br | C3HBr3N2O
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | Morpholine-4-carboxylic acid 3,4,5-tribromo-pyrazol-1-yl ester | BrC1=NN(C(=C1Br)Br)OC(=O)N1CCOCC1 | C8H8Br3N3O3
